US04668688
Preparation of 1-[bis(hydroxymethyl)-methyl]-2-methyl-6,7-dimethoxy-3,4-dihydroisoquinolinium iodide
0.03 mole (7.96 g) of 1-[bis(hydroxymethyl)-methyl]-6,7-dimethoxy-3,4-dihydroisoquinoline is dissolved in 40 ml of absolute ethanol. 0.045 mole (6.39 g) of methyl iodide is added to the solution and the reaction mixture is kept at 30° to 40° C. for 6 hours. The precipitated crystals are filtered off and recrystallized from ethanol. The aimed compound is obtained with a melting point of 189° to 193° C.

reactant | 1-[bis(hydroxymethyl)-methyl]-6,7-dimethoxy-3,4-dihydroisoquinoline | 0.03 mole, 7.96 g | OCC(C1=NCCC2=CC(=C(C=C12)OC)OC)CO | C14H19NO4
reactant | methyl iodide | 0.045 mole, 6.39 g | CI | CH3I
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 1-[bis(hydroxymethyl)-methyl]-2-methyl-6,7-dimethoxy-3,4-dihydroisoquinolinium iodide | Yield: 71% | [I-].OCC(C1=[N+](CCC2=CC(=C(C=C12)OC)OC)C)CO | InChI=1S/C15H22NO4.HI/c1-16-5-4-10-6-13(19-2)14(20-3)7-12(10)15(16)11(8-17)9-18;/h6-7,11,17-18H,4-5,8-9H2,1-3H3;1H/q+1;/p-1
